US04632925
A mixture of 2.0 g of 4-diphenylmethylpiperidine in 5 mL of dimethylformamide and 4.2 mL of triethylamine was treated at 0° C. with a solution composed of 5 mL of dimethylformamide and the acid chloride prepared from 2.0 g of 3-pyridine butanoic acid. After 15 minutes the mixture was diluted with dichloromethane, filtered and evaporated to dryness. The residue was partitioned between toluene and 1N sodium hydroxide and the organic layer was washed with brine, dried over sodium sulfate and evaporated to give 3.3 g of crude oil. Purification was accomplished by chromatography on a Waters Prep 500 HPLC using silica gel columns and eluting with 98:2 ethyl acetate-triethylamine. The product consisted of a colorless oil which was dried under vacuum at 70° C. to give 2.8 g (86%) of 4-diphenylmethyl-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine, 0.1 molar ethylacetate solvate. Analysis Calculated for C27H30N2O.O.1C4H8O 2 : C, 80.79; H, 7.62; N, 6.88. Found: C, 80.91; H, 7.57; N, 6.81.

reactant | 4-diphenylmethylpiperidine | 2.0 g | C1(=CC=CC=C1)C(C1CCNCC1)C1=CC=CC=C1 | C18H21N
reactant | 3-pyridine butanoic acid | 2.0 g | N1=CC(=CC=C1)CCCC(=O)O | C9H11NO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 4.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-diphenylmethyl-1-[1-oxo-4-(3-pyridinyl)butyl]piperidine | 2.8 g, 86% | C1(=CC=CC=C1)C(C1CCN(CC1)C(CCCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C27H30N2O
